US05273999
A solution of 1.0 g (2.2 mmol) of 2-[[5-(acetyloxy)pentyl]oxy]-5-(4-ethoxy-4-oxobutoxy)benzenepropanoic acid ethyl ester from the preceding example, and 0.018 g of p-toluenesulfonic acid monohydrate in 10 mL of ethanol was stirred and refluxed for 30 hr and stirred at room temperature for 21 hr. Most of the ethanol was removed in vacuo and the residue was diluted with water and worked-up with ether in the usual manner (the combined ether extracts were additionally washed with saturated aqueous sodium bicarbonate). The product was purified by flash chromatography on silica gel, eluting with 1:1 hexane-ethyl acetate. There was obtained 0.6 g (66.5%) of 2-[(5-hydroxypentyl)oxy]-5-(4-ethoxy-4-oxobutoxy)benzenepropanoic acid ethyl ester as a viscous oil.

reactant | 2-[[5-(acetyloxy)pentyl]oxy]-5-(4-ethoxy-4-oxobutoxy)benzenepropanoic acid ethyl ester | 2.2 mmol, 1.0 g | C(C)OC(CCC1=C(C=CC(=C1)OCCCC(=O)OCC)OCCCCCOC(C)=O)=O | C24H36O8
reactant | p-toluenesulfonic acid monohydrate | 0.018 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-[(5-hydroxypentyl)oxy]-5-(4-ethoxy-4-oxobutoxy)benzenepropanoic acid ethyl ester | 0.6 g, 66.5% | C(C)OC(CCC1=C(C=CC(=C1)OCCCC(=O)OCC)OCCCCCO)=O | C22H34O7
